US09371319B2
Preparation 140: tert-Butyl 6-bromo-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole (Preparation 139, 152 mg, 0.58 mmole) was stirred in ethyl acetate (2 mL). Triethylamine (140 uL, 101 mg 1.0 mmole) was added, followed by a crystal of DMAP and di-t-butyl dicarbonate (190 mg, 0.87 mmole). The reaction was stirred at 25° C. for 60 minutes. Further di-t-butyl dicarbonate (54 mg) was added and the reaction allowed to stir at room temperature overnight. The reaction was concentrated in vacuo and the residue applied in chloroform to a preparative TLC plate. The product was eluted with 1:1 ethyl acetate:cyclohexane (three times) to afford the title compound. 1H-NMR (CDCl3, 500 MHz): δ 1.54 (s, 9H), 6.90 (d, J=0.95 Hz, 1H), 7.40 (s, 1H), 8.02 (s, 1H), 8.31 (s, 1H), 8.68 (s, 1H).

reactant | 5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 0.58 mmole, 152 mg | BrC1=CC2=C(C=N1)C=C(N2)C2=CN=CO2 | C10H6BrN3O
reactant | Triethylamine | 1.0 mmole, 140 uL, 101 mg | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 0.87 mmole, 190 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 54 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-bromo-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | BrC1=CC2=C(C=N1)C=C(N2C(=O)OC(C)(C)C)C2=CN=CO2 | C15H14BrN3O3
